US07635715B2
Step A: Preparation of 4-(2,3-difluorophenyl)-tetrahydro-2H-pyran-4-carbonitrile
A mixture of sodium hydride (2 mL, 88 mmol) in 120 mL NMP was stirred at 0° C. and treated with a mixture of bis(2-bromoethyl)ether (9 mL, 40 mmol) and 2-(2,3-difluorophenyl)acetonitrile (6.12 g, 40 mmol) in 20 mL ether. The reaction was stirred at room temperature for 4 hours, carefully quenched with 20 mL H2O, and neutralized to pH=5 with concentrated HCl. The mixture was further diluted with 200 mL water, and the precipitate was collected by filtration. The solid was redissolved in 200 mL ether, washed with 20 mL saturated NaCl, dried over anhydrous Na2SO4, and concentrated to give 6.55 g of the title compound as a white solid. MS m/e: (M+H)+ 224.

reactant | sodium hydride | 88 mmol, 2 mL | [H-].[Na+]
reactant | bis(2-bromoethyl)ether | 40 mmol, 9 mL | BrCCOCCBr | C4H8Br2O
reactant | 2-(2,3-difluorophenyl)acetonitrile | 40 mmol, 6.12 g | FC1=C(C=CC=C1F)CC#N | C8H5F2N
solvent | NMP | 120 mL | CN1CCCC1=O | C5H9NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | 4-(2,3-difluorophenyl)-tetrahydro-2H-pyran-4-carbonitrile | 6.55 g | FC1=C(C=CC=C1F)C1(CCOCC1)C#N | C12H11F2NO
